US05356559
A solution of 2 g of bis-4,4'-(1,4-piperazinediyl)dibenzaidehyde in 100 ml of acetone is treated dropwise with 100 ml of Jones' reagent. The mixture is stirred at room temperature for 1 hour and then poured into 100 ml of water. The precipitate which thereby results is filtered off, washed portionwise with water and dried in a vacuum. The crude product is recrystallized from ethanol and yields pure bis-4,4'-(1,4-piperazinediyl)dibenzoic acid.

reactant | 4,4'-(1,4-piperazinediyl)dibenzaidehyde | N1(CCN(CC1)C1=CC=C(C=O)C=C1)C1=CC=C(C=O)C=C1 | C18H18N2O2
reactant | Jones' reagent | 100 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | water | 100 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4,4'-(1,4-piperazinediyl)dibenzoic acid | N1(CCN(CC1)C1=CC=C(C(=O)O)C=C1)C1=CC=C(C(=O)O)C=C1 | C18H18N2O4
